US06096743
A mixture of 2.00 g of N-[4-cyano-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester, 40 ml of THF, 8 ml of methanol and 200 mg of 10% palladium-carbon was stirred under a hydrogen gas atmosphere to reduce the nitro group. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Then, 50 ml of chloroform and 4.43 ml of triethylamine were added to the resulting residue, followed by the dropwise addition of 1.69 ml of ethyl chloroglyoxylate under ice-cooling. After stirring at room temperature for 20 hours, the reaction mixture was diluted with chloroform. The diluted mixture was washed with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. Then, 60 ml of ethanol and 0.5 ml of concentrated hydrochloric acid were added to the resulting residue, followed by heating under reflux for 3 hours. After cooling, the crystals so formed were collected by filtration and dried under reduced pressure to give 1.07 g (50%) of ethyl 2-[6-cyano-2,3-dioxo-7-(1H-imidazol-1-yl)-1,2,3,4-tetrahydroquinoxalin-1-yl]acetate.

reactant | N-[4-cyano-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester | 2.00 g | C(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)C#N)[N+](=O)[O-])=O | C14H13N5O4
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | methanol | 8 ml | CO | CH4O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | ethyl 2-[6-cyano-2,3-dioxo-7-(1H-imidazol-1-yl)-1,2,3,4-tetrahydroquinoxalin-1-yl]acetate | 1.07 g, 50% | C(#N)C=1C=C2NC(C(N(C2=CC1N1C=NC=C1)CC(=O)OCC)=O)=O | C16H13N5O4
